US05834501
Ethyl imidazo[1,2-a]pyridin-2-ylacetate
A solution of 14.6 g of 2-aminopyridine and 25.5 g of ethyl 4-chloroacetoacetate in 200 ml of acetonitrile was heated under reflux for 14.5 hours. At the end of this time, the reaction mixture was freed from the solvent by distillation under reduced pressure. The residue thus obtained was mixed with an aqueous solution of potassium carbonate, after which it was extracted with ethyl acetate. The extract was washed with an aqueous solution of sodium chloride and dried over anhydrous sodium sulfate, after which the solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography through silica gel, using ethyl acetate as the eluent, to give 2.65 g of the title compound having Rf=0.33 (on silica gel thin layer chromatography using ethyl acetate as the developing solvent).

reactant | 2-aminopyridine | 14.6 g | NC1=NC=CC=C1 | C5H6N2
reactant | ethyl 4-chloroacetoacetate | 25.5 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | Ethyl imidazo[1,2-a]pyridin-2-ylacetate | 2.65 g | N=1C(=CN2C1C=CC=C2)CC(=O)OCC | C11H12N2O2
